Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
levofloxacin
 
Attending: ___
 
___ Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ gentleman with a history of 
multiple embolic strokes, nonverbal and wheelchair bound at 
baseline s/p trach with indwelling suprapubic catheter and 
G-tube, reported antiphospholipid syndrome, paraoxysmal atrial 
fibrillation (on therapeutic SC heparin), type 2 DM, COPD, and 
OSA who presented from rehab to the ED for fever, altered mental 
status, and concern for seizure.

Patient was recently admitted from ___ to ___ for acute 
hypoxemic and hypercarbic respiratory failure secondary to 
pneumonia, pulmonary edema, and central apnea s/p tracheostromy 
on ___ due to inability to wean from the vent. He was also 
treated for septic shock secondary to pneumonia and a UTI. 
During that hospitalization, he was noted to have intermittent 
rhythmic jerking of right upper extremity/face. EEG showed 
epileptiform discharges arising from foci at the patient's 
previously stroke sites. Per neurology, patient was started on 
Keppra for prophylaxis, but this was discontinued per son's 
request because he felt it was making him too sleepy. MRI brain 
was recommended but was not pursued given hypoxia and inability 
to lie flat. 

Patient presented to the ED today due to one day of fever, 
dyspnea, worsening secretions, and possible seizures. Per review 
of rehab records, patient was started on levofloxacin on ___ 
due to concern for pneumonia. Sputum culture from ___ grew 
pseudomonas (sensitive to levofloxacin). At some point after 
starting levofloxacin, antibiotics were switched to cefepime, 
doxycycline, and Flagyl because of a "grand mal seizure." Per 
patient's son, he had several episodes of right shoulder 
twitching and jaw twitching (similar to prior episodes) lasting 
___ minutes. Rehab staff noted that he has been less responsive 
to noxious stimuli than usual. Of note, he was previously on the 
trach mask (not requiring the ventilator aside from pressure 
support occasionally at night), but he was placed on the 
ventilator after the "seizure." 
 
In ED initial VS: T 102.6, HR 89, BP 138/65, RR 22, SpO2 98% RA. 
 
Exam: Lethargic, not responsive to noxious stimuli, RRR, abdomen 
___ and trach in place, erythema of LLE
Patient was given: IV Vancomycin 1000 mg, Acetaminophen 1000 mg, 
and NS (250cc?).   
Imaging notable for: Head CT with no acute intracranial process; 
CXR improved compared to prior, no focal infiltrate.  
Consults: Neurology 
VS prior to transfer: T 101.6, HR 93, BP 170/61, RR 15, SpO2 
100% on ventilator.
 
On arrival to the MICU, patient is sleepy though is arousable to 
loud voice. Per son ___, this is his baseline mental status. He 
has an episode of right arm and jaw twitching during the exam, 
which ___ confirms is the "seizure activity" he has been having. 
 
 
Past Medical History:
- Embolic CVAs x 2 ___- started Coumadin) with residual 
L hemiparesis, s/p trach, s/p supraubic catheter, s/p G-tube, 
wheelchair-bound, non-verbal at baseline  
- Vascular dementia  
- Antiphospholipid syndrome
- Paroxsymal atrial fibrillation (previously on Coumadin, now on 
SC heparin)
- Patent foramen ovale (PFO)  
- DMII
- OSA, previously on on CPAP
- COPD  
- Hypothyroidsim
- Hyperlipidemia
- S/p hernia surgery
 
Social History:
___
Family History:
Son with HTN, AF 
 
Physical Exam:
ADMISSION EXAM:
================
VITALS: T 100.3, HR 89, BP 187/72, SpO2 100% FiO2 0.5.
GENERAL: Lethargic, chronically-ill appearing elderly gentleman, 
opens eyes to loud voice, NAD, EEG leads in place.  
HEENT: R pupil 4mm fixed, L pupil 1mm fixed (chronic).
NECK: Trach in place, JVP 7 cm, no ecchymoses. 
LUNGS: Diffuse rhonchi anteriorly, no crackles or wheezes.
CV: RRR, normal S1 and S2, no murmurs. 
ABD: Soft, nondistended, ___ to epigastrium with intact clean 
dressing, no erythema or drainage. Suprapubic tube in place.
EXT: Warm, no edema, 2+ peripheral pulses.
SKIN: Well demarcated erythema of LLE, not entirely 
circumferential, no ulcers/erosions, no drainage, not warmer 
than surrounding skin.
NEURO: Sleeping, opens eyes to loud voice, does not follow 
commands.
Access: L PICC

DISCHARGE EXAM:
================
PHYSICAL EXAM:  
VITALS: T 98, HR 66, BP 127/81, RR 19, SpO2 100% FiO2 0.35 
GENERAL: Lethargic, chronically-ill appearing elderly gentleman, 
opens eyes to loud voice, NAD, EEG leads in place.  
HEENT: R pupil 4mm fixed, L pupil 1mm fixed (chronic).
NECK: Trach in place, JVP 7 cm, no ecchymoses. 
LUNGS: Diffuse rhonchi anteriorly, improved, no crackles or 
wheezes.
CV: RRR, normal S1 and S2, no murmurs. 
ABD: Soft, nondistended, ___ to epigastrium with intact clean 
dressing, no erythema or drainage. Suprapubic tube in place.
EXT: Warm, no edema, 2+ peripheral pulses.
SKIN: Improving erythema of LLE, no ulcers/erosions, no 
drainage.
Access: L PICC
NEURO:
- MS: opens eyes to voice, opens eyes to deep noxious, does not 
follow commands
- CN: bilateral postsurgical pupils that do not react, L pupil 
is
much smaller than R (suspect postsurgical given shape), winces 
to
light in L eye but not right, difficult to assess facial 
symmetry
given patient positioning
- Sensorimotor: moves LUE and LLE to nailbed pressure, does not
move RUE but when passively moved will keep it in place, unable
to elicit movement from RLE
- Coordination: unable to assess
- Gait: unable to assess
 
Pertinent Results:
ADMISSION LABS:
================
___ 03:15PM BLOOD WBC-13.6*# RBC-2.58* Hgb-9.5* Hct-30.5* 
MCV-118* MCH-36.8* MCHC-31.1* RDW-19.4* RDWSD-83.3* Plt ___
___ 03:15PM BLOOD Neuts-64.3 ___ Monos-8.5 Eos-0.6* 
Baso-0.6 Im ___ AbsNeut-8.74*# AbsLymp-3.31 AbsMono-1.16* 
AbsEos-0.08 AbsBaso-0.08
___ 03:15PM BLOOD ___ PTT-124.2* ___
___ 03:15PM BLOOD Glucose-266* UreaN-134* Creat-2.7* 
Na-151* K-4.1 Cl-114* HCO3-20* AnGap-21*
___ 08:56PM BLOOD ALT-39 AST-42* LD(LDH)-208 AlkPhos-244* 
TotBili-0.2
___ 09:37AM BLOOD CK-MB-4 cTropnT-0.35*
___ 02:37PM BLOOD CK-MB-5 cTropnT-0.28*
___ 08:56PM BLOOD Albumin-3.3* Calcium-8.6 Phos-5.0* Mg-2.1
___ 03:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:27PM BLOOD Type-ART Temp-39.4 pO2-142* pCO2-46* 
pH-7.29* calTCO2-23 Base XS--4
___ 03:28PM BLOOD Lactate-2.7*

DISCHARGE LABS:
================
___ 02:11AM BLOOD WBC-7.3 RBC-2.05* Hgb-7.5* Hct-23.8* 
MCV-116* MCH-36.6* MCHC-31.5* RDW-19.6* RDWSD-83.7* Plt ___
___ 02:11AM BLOOD Glucose-179* UreaN-84* Creat-1.5* Na-139 
K-4.6 Cl-114* HCO3-20* AnGap-10
___ 02:11AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9
___ 02:11AM BLOOD Phenyto-15.6
___ 03:20AM BLOOD ___ pO2-99 pCO2-43 pH-7.26* 
calTCO2-20* Base XS--7 Comment-GREEN TOP
___ 02:11AM BLOOD ___ PTT-115.2* ___
___ 12:00PM BLOOD ___ PTT-39.1* ___

IMAGING:
=========
CXR (___):
IMPRESSION:   
1. Left PICC line grossly unchanged position at the left 
brachiocephalic-SVC junction. 
2. No significant change in mild pulmonary edema or retrocardiac 
opacity. 

MRI/MRA Brain (___):
IMPRESSION:   
1. Chronic infarction in the parafalcine left parietal lobe with 
pseudolaminar necrosis along its superior aspect.  Apparent 
diffusion abnormality in the area of pseudolaminar necrosis most 
likely represents susceptibility artifact, and less likely 
related to acute infarction, though comparison with prior 
studies or or follow up MRI in several weeks would be helpful 
for differentiation. 
2. Small chronic infarction in the right occipital lobe. 
3. Chronic microhemorrhage within the right frontal 
periventricular white 
matter. 
4. Extensive global parenchymal volume loss. 
5. Apparent filling defect at the origin of left internal 
carotid artery with apparent ___ stenosis by NASCET criteria 
may represent either 
atherosclerotic stenosis or an artifact related to the 2D 
time-of-flight 
technique. 
6. Multiple foci of mild narrowing in the intracranial arteries, 
presumably atherosclerotic, most notable in the left cavernous 
internal carotid artery, right vertebral artery proximal to the 
right ___, and in P2 segments of bilateral posterior 
cerebral arteries.   
RECOMMENDATION(S):  Follow up MRI in several weeks could help 
differentiate between susceptibility artifact related to 
pseudolaminar necrosis versus acute infarction in the left 
parafalcine parietal lobe. 

Head CT (___):
FINDINGS:    
Examination is mildly limited by positioning.  No intracranial 
hemorrhage, 
edema or mass effect is seen.  Severe ventriculomegaly appears 
stable from 
___.  Bilateral parietal hypodensities appear unchanged 
suggestive of encephalomalacia.  Periventricular white matter 
hypodensities are nonspecific but suggestive chronic small 
vessel ischemic changes, unchanged from prior.  No acute 
fractures seen.   
Again seen is mucosal thickening within the paranasal sinuses, 
slightly 
increased from prior demonstrating hyperdense content suggesting 
inspissated or fungal content.  Additionally, there is 
thickening and sclerosis of the sinus walls suggesting 
chronicity.  In addition, there is bilateral mastoid 
opacification with bilateral middle ear opacification also 
noted.  The orbits are unremarkable.   
IMPRESSION:   
1. No CT evidence of acute process on this limited examination. 
2. Sinus disease and otomastoid opacification as detailed above. 


CXR (___):
IMPRESSION:   
1. Improving bibasilar opacities suggestive of atelectasis. 
2. No new focal consolidation. 

EEG (___):
IMPRESSION: This is an abnormal continuous ICU monitoring study 
because of 
generalized slowing of the background, indicative of moderate 
encephalopathy, which is non-specific with regard to etiology 
but may be due to toxic-metabolic disturbances or medication. 
There are no electrographic seizures. There are 3 pushbutton 
activations for twitching of the right shoulder. There is no 
electrographic correlate. Compared to the previous day's 
recording, there are no epileptiform discharges. 

MICROBIOLOGY:
==============
___ 11:58 am SPUTUM      Source: Endotracheal. 
GRAM STAIN (Final ___: 
___ PMNs and <10 epithelial cells/100X field. 
2+   ___ per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH 
    
                                    OROPHARYNGEAL FLORA. 

RESPIRATORY CULTURE (Final ___: 
SPARSE GROWTH Commensal Respiratory Flora. 
LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

URINE CULTURE (Final ___: 
YEAST.    10,000-100,000 CFU/mL. 

___: Blood cultures negative
 
Brief Hospital Course:
Mr. ___ is an ___ gentleman with a history of 
multiple embolic strokes, nonverbal and wheelchair bound at 
baseline s/p trach with indwelling suprapubic catheter and 
G-tube, reported antiphospholipid syndrome, paraoxysmal atrial 
fibrillation (on therapeutic SC heparin), type 2 DM, COPD, and 
OSA who presented from rehab to the ED for fever, altered mental 
status, and concern for seizure.

# Fever:
# Leukocytosis:
Initial presentation was concerning for multiple sources of 
infection including pneumonia (most likely given report of 
recent pseudomonas in sputum culture and increased secretions, 
though CXR appeared clear), UTI (urinalysis positive though 
difficult to interpret in setting of chronic indwelling SP 
catheter), cellulitis (though rash appeared more consistent with 
contact dermatitis than infections), and meningitis (much less 
likely now that mental status did not seem that far off from 
known baseline). Flu negative. He was treated with antibiotics 
including Vanc ___, Azithro ___, and Zosyn 
___, all of which were discontinued after cultures 
remained negative. Patient remained afebrile and clinically 
stable after discontinuation of antibiotics. 

# Right shoulder and jaw twitching:
Initial concern for seizure activity. EEG placed, and movements 
did not have electric correlation and therefore neurology felt 
strongly these were not seizures.  However, epileptiform 
discharges were seen on EEG, as was previously seen on prior 
studies, possibly from areas of old strokes (an MRI was 
performed which showed no new stroke or intracranial process). 
In the past, Keppa prophylaxis was recommended but patient's son 
declined this as he felt it made him too sleepy.  This time 
phenytoin therapy was started without incident. Levels were 
monitored and remained stable.
 
# Hypernatremia: Patient chronically hypernatremic, admitted at 
151, he was treated with free water flushes to a discharge 
sodium of 139. He will need 400cc Q3 hours free water flushes, 
and this can be adjusted based on his Na levels. 

# Chronic renal failure: Cr upon discharge from the hospital was 
3.3, admitted this time with a Cr of 2.7 and discharged at 1.5.  
It is still unclear why this ___ developed. Patient had been 
receiving diuresis at rehab and most recently was on 
acetazolamide, which is likely explanation for low bicarbonate. 
We discontinued the acetazolamide and his bicarbonate levels 
remained stable. We did not use any active diuresis.  

# Antiphospholipid syndrome (per OMR, diagnosis is questionable 
given negative antibody studies) and embolic strokes s/p trach 
and ___: Patient was admitted on the ventilator, though this 
appears to have been prophylactic in the setting of possible 
seizures. His settings on the ventilator were CMV with RV 480, 
RR 18, PEEP 5, and FiO2 30%. He was weaned to trach collar 
exclusively for several days prior to discharge. No ventilator 
needs.

# Atrial fibrillation:
# History of embolic stroke:
Given historically labile INR, heme/onc during last admission 
recommended treatment dosing of SC heparin. Continued heparin 
___ UNIT SC BID, though PTT was supratherapeutic on day or 
discharge so dose was reduced to ___ SC BID. Please continue 
to monitor PTT and adjust heparin dose in rehab.

Chronic issues:  
# Type 2 DM: Continued Lantus rather than detemir while 
inpatient and RISS given tube feeds. 
# Hypothyroidism: Continued levothyroxine.  
# Glaucoma: Continued home eye drops.  
# Hyperlipidemia: Continued pravastatin.   

TRANSITIONAL ISSUES: 
==================== 
[] Please check PTT q8h with adjustment in SQ heparin for goal 
PTT 60-80; dose decreased to ___ units on day of discharge due 
to supratherapeutic PTT 
[] Patient has an appointment scheduled with stroke/neuro in ___ 
months
[] Patient needs CBC, chem 10 in 1 week 
[] Patient needs albumin, LFTs, and phenytoin levels every 2 
weeks; if phenytoin remains stable over several draws with no 
changes in liver function, can extend to checking once every 
month (target CORRECTED phenytoin level is ___, correct for 
albumin)
[] FYI, becomes hypernatremic, please adjust free water flushes 
prn
[] Suprapubic cath exchange q4-6 weeks, consider holding 
anticoag for one day prior, he will be due for this soon
[] Discontinued acetazolamide; please do not restart
[] Patient not requiring vent day or night, only trach collar 
[]Respiratory at discharge: Trach mask, 10L, 35% FiO2
# Full code
# Contact: ___son) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES QID 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Pilocarpine 4% 1 DROP LEFT EYE QID 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. dorzolamide-timolol (PF) 22.3-6.8 mg/mL ophthalmic TID 
6. ___ ___ UNIT SC BID 
7. Senna 8.6 mg PO BID:PRN constipation 
8. sevelamer CARBONATE 800 mg PO TID 
9. Ipratropium Bromide Neb 1 NEB IH Q6H 
10. Levalbuterol Neb 0.63 mg NEB BID SOB/wheeze 
11. travoprost (benzalkonium) 0.004 % ophthalmic evening 
12. AcetaZOLamide 250 mg PO Q12H 
13. MetroNIDAZOLE 500 mg PO QID 
14. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
15. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using REG Insulin
16. Miconazole Powder 2% 1 Appl TP BID 
17. Omeprazole 40 mg PO DAILY 
18. Pravastatin 20 mg PO QPM 
19. Saccharomyces boulardii 250 mg oral BID 
20. CefePIME Dose is Unknown  IV Frequency is Unknown 
21. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
22. Fluticasone Propionate 110mcg 1 PUFF IH BID 
23. Detemir 32 Units Bedtime
24. Melatin (melatonin) 1 mg oral QHS 

 
Discharge Medications:
1.  Phenytoin Infatab 100 mg PO TID  
2.  ___ ___ UNIT SC BID  
3.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Bisacodyl 10 mg PO DAILY:PRN constipation  
5.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES QID  
6.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
7.  dorzolamide-timolol (PF) 22.3-6.8 mg/mL ophthalmic TID  
8.  Fluticasone Propionate 110mcg 1 PUFF IH BID  
9.  Detemir 32 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
10.  Ipratropium Bromide Neb 1 NEB IH Q6H  
11.  Levalbuterol Neb 0.63 mg NEB BID SOB/wheeze  
12.  Levothyroxine Sodium 125 mcg PO DAILY  
13.  Melatin (melatonin) 1 mg oral QHS  
14.  Miconazole Powder 2% 1 Appl TP BID  
15.  Omeprazole 40 mg PO DAILY  
16.  Pilocarpine 4% 1 DROP LEFT EYE QID  
17.  Pravastatin 20 mg PO QPM  
18.  Saccharomyces boulardii 250 mg oral BID  
19.  Senna 8.6 mg PO BID:PRN constipation  
20.  sevelamer CARBONATE 800 mg PO TID  
21.  travoprost (benzalkonium) 0.004 % ophthalmic evening  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
----------
Epileptiform discharges

Secondary: 
----------
History of embolic stroke 
Concern for antiphospholipid syndrome 
COPD
OSA
DM

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ for fever and concern for seizures. 
You were treated with antibiotics for a short time but we 
determined that you did not likely have an infection and these 
were stopped. We were concerned that your abnormal movements 
were from seizure, so we recorded the electrical activity of 
your brain.  There was no seizure activity with these abnormal 
movements, but we did find patterns of electrical activity that 
indicate the potential to have seizure ("epileptiform 
discharges"), so we started anti-seizure medication. An MRI of 
your brain did not show any new stroke. You were doing well at 
discharge, without fever or lab findings suggesting infection. 
You did not require ventilation over night, just a trach collar. 


You will have blood work done after you leave to make sure your 
blood is thin and that the anti-seizure medication is at the 
right level. You will have follow-up with a neurologist 
specializing in strokes in ___ months after you leave the 
hospital. 

All medication changes are detailed in the discharge summary. 

It was a pleasure taking care of you, 
The ___ ICU Team
 
Followup Instructions:
___